US05998661
Preparation of Nitrocubane
Potassium monopersulfate (4.0 g), water (50 ml), and acetonitrile, (15 ml), were mixed together to form a solution. Then, ozone was added until the solution was saturated. A second solution of 1,3,5,7-tetra-aminocubane hydrochloride in water, 200 mg in 15 ml, was slowly added to the first solution while ozone was slowly bubbled through the first solution. The reaction temperature was 0 degrees C. The addition of ozone was stopped after 2 hours; the reaction mixture was stirred overnight and 10 ml of acetone were added.

reactant | Potassium monopersulfate | 4.0 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
reactant | ozone | O=[O+][O-] | O3
reactant | 1,3,5,7-tetra-aminocubane hydrochloride | Cl.NC12C3C4(C5C3(C1C5(C24)N)N)N
reactant | water | O | H2O
reactant | water | 50 ml | O | H2O
product | Nitrocubane | [N+](=O)([O-])C12C3C4C5C3C1C5C24 | C8H7NO2
